### PR TITLE
feat: redefine `Int.pow`, for faster kernel reduction

### PR DESCRIPTION
**Pull request by kim-em**
This PR replaces #11138, which just added a `@[csimp]` lemma for `Int.pow`, this time actually replacing the definition. This means we not only get fast runtime behaviour, but take advantage of the special kernel support for `Nat.pow`.

### CODE REVIEW

**Comment by ghost** [comment]
- 💥 Mathlib branch [lean-pr-testing-11139](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11139) build failed against this PR. (2025-11-11 12:26:46) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/19265240607)

File: src/Init/Data/Int/Basic.lean [hunk 1]
```diff
@@ -392,13 +392,21 @@ Examples:
...
 * `(-7 : Int) ^ 3 = -343`
 -/
-protected def pow (m : Int) : Nat → Int
-  | 0      => 1
-  | succ n => Int.pow m n * m
+protected def pow (m : Int) (n : Nat) : Int :=
+  if m >= 0 || n % 2 = 0 then
+    Int.ofNat <| m.natAbs ^ n
+  else
+    - (Int.ofNat <| m.natAbs ^ n)
```
Comment (Rob23oba) [inline src/Init/Data/Int/Basic.lean]:
```suggestion
protected def pow : Int → Nat → Int
  | (m : Nat), n => Int.ofNat (m ^ n)
  | m@-[_+1], n => if n % 2 = 0 then Int.ofNat (m.natAbs ^ n) else - Int.ofNat (m.natAbs ^ n)
```
Let's stick with the convention of using matches to define these functions

File: src/Init/Data/Int/Basic.lean [hunk 2]
```diff
@@ -392,13 +392,21 @@ Examples:
...
 
 instance : NatPow Int where
   pow := Int.pow
 
+protected theorem pow_def (m : Int) (n : Nat) :
+  m ^ n = if m >= 0 || n % 2 = 0 then
+    Int.ofNat <| m.natAbs ^ n
+  else
+    - (Int.ofNat <| m.natAbs ^ n) := rfl
+
```
Comment (Rob23oba) [inline src/Init/Data/Int/Basic.lean]:
```suggestion
```
We don't really have any other comparable lemmas in this file

File: src/Init/Data/Int/Pow.lean [hunk 3]
```diff
@@ -14,9 +14,19 @@ namespace Int
...
+protected theorem pow_succ (b : Int) (e : Nat) : b ^ (e+1) = (b ^ e) * b := by
+  simp only [Int.pow_def]
+  by_cases h : 0 ≤ b
+  · simp [h, Nat.pow_add_one, ofNat_natAbs_of_nonneg]
+  · simp [h]
+    split <;> rename_i h
+    · rw [if_neg (by omega), Nat.pow_add_one, natCast_mul, ofNat_natAbs_of_nonpos (by omega)]
+      simp [Int.neg_mul, Int.mul_neg]
+    · rw [if_pos (by omega), Nat.pow_add_one, natCast_mul, ofNat_natAbs_of_nonpos (by omega)]
+      simp [Int.mul_neg]
```
Comment (Rob23oba) [inline src/Init/Data/Int/Pow.lean]:
```suggestion
@[simp, norm_cast] theorem natCast_pow (m n : Nat) : (m ^ n : Nat) = (m : Int) ^ n := rfl
theorem negSucc_pow (m n : Nat) : (-[m+1] : Int) ^ n = if n % 2 = 0 then Int.ofNat (m.succ ^ n) else Int.negOfNat (m.succ ^ n) := rfl

@[simp] theorem pow_zero (m : Int) : m ^ 0 = 1 := by cases m <;> simp [← natCast_pow, negSucc_pow]

theorem pow_succ (m : Int) (n : Nat) : m ^ n.succ = m ^ n * m := by
  rcases m with _ | a
  · rfl
  · simp only [negSucc_pow, Nat.succ_mod_succ_eq_zero_iff, Nat.reduceAdd, ← Nat.mod_two_ne_zero,
      Nat.pow_succ, ofNat_eq_natCast, @negOfNat_eq (_ * _), ite_not, apply_ite (· * -[a+1]),
      ofNat_mul_negSucc, negOfNat_mul_negSucc]
```
and remove `natCast_pow` below

File: src/Init/GrindInstances/Ring/Int.lean [hunk 4]
```diff
@@ -26,8 +26,8 @@ instance : CommRing Int where
   right_distrib := Int.add_mul
   zero_mul := Int.zero_mul
   mul_zero := Int.mul_zero
-  pow_zero _ := by rfl
-  pow_succ _ _ := by rfl
+  pow_zero _ := by simp
+  pow_succ _ _ := by simp [Int.pow_succ]
```
Comment (Rob23oba) [inline src/Init/GrindInstances/Ring/Int.lean]:
```suggestion
  pow_zero := Int.pow_zero
  pow_succ := Int.pow_succ
```

File: src/Init/Data/Rat/Lemmas.lean [hunk 5]
```diff
@@ -567,7 +567,7 @@ protected theorem zpow_natCast (q : Rat) (n : Nat) : q ^ (n : Int) = q ^ n := rf
 
 protected theorem zpow_neg (q : Rat) (n : Int) : q ^ (-n : Int) = (q ^ n)⁻¹ := by
   rcases n with (_ | n) | n
-  · with_unfolding_all rfl
+  · with_unfolding_all simp; rfl
```
Comment (Rob23oba) [inline src/Init/Data/Rat/Lemmas.lean]: Non-terminal simp (also let's maybe only have `with_unfolding_all` for the `rfl` part)

File: src/Init/Data/Rat/Lemmas.lean [hunk 6]
```diff
@@ -551,7 +551,7 @@ theorem pow_def (q : Rat) (n : Nat) :
 @[simp] theorem num_pow (q : Rat) (n : Nat) : (q ^ n).num = q.num ^ n := rfl
 @[simp] theorem den_pow (q : Rat) (n : Nat) : (q ^ n).den = q.den ^ n := rfl
 
-@[simp] protected theorem pow_zero (q : Rat) : q ^ 0 = 1 := rfl
+@[simp] protected theorem pow_zero (q : Rat) : q ^ 0 = 1 := by simp [Rat.pow_def]; rfl
```
Comment (Rob23oba) [inline src/Init/Data/Rat/Lemmas.lean]: Non-terminal simp

**Comment by ghost** [comment]
- 🟡 Mathlib branch [lean-pr-testing-11139](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11139) build against this PR was cancelled. (2025-11-13 03:58:01) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/19319965043)

**Comment by ghost** [comment]
- 🟡 Mathlib branch [lean-pr-testing-11139](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11139) build against this PR was cancelled. (2025-11-13 04:01:46) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/19320001054)

**Comment by ghost** [comment]
- 💥 Mathlib branch [lean-pr-testing-11139](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11139) build failed against this PR. (2025-11-13 04:56:44) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/19320066374)

**Comment by ghost** [comment]
- 💥 Mathlib branch [lean-pr-testing-11139](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11139) build failed against this PR. (2025-11-13 05:29:11) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/19321167897)

**Comment by ghost** [comment]
- 💥 Mathlib branch [lean-pr-testing-11139](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11139) build failed against this PR. (2025-11-13 07:18:47) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/19322647896)

**Comment by ghost** [comment]
- ✅ Mathlib branch [lean-pr-testing-11139](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11139) has successfully built against this PR. (2025-11-14 03:47:48) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/19353462420)
